US05053509
A solution of 2-benzylpyrazine (8 g) in acetic acid (60 cc) is treated with platinum dioxide (0.8 g) and hydrogenated under a pressure of 1 atmosphere at approximately 20° C. When the absorption of hydrogen is complete, the catalyst is removed by filtration through diatomaceous silica. The solution is concentrated to dryness under reduced pressure (20 kPa) at approximately 60° C. The dry extract is suspended in ethanol (40 cc) and treated at approximately 20° C. with a solution of sodium ethylate prepared from sodium (1.49 g) in ethanol (40 cc). After 2 hours' stirring at approximately 20° C., the suspension is concentrated to dryness under reduced pressure (20 kPa) at approximately 30° C. The dry extract is taken up with ethyl ether (60 cc). The insoluble matter is removed by filtration through diatomaceous silica. The filtrate is concentrated to dryness under reduced pressure under the same conditions as above. The dry extract is taken up with isopropyl ether (20 cc), drained and washed with the same solvent (2×5 cc). (RS)-2-Benzylpiperazine (5.32 g) is obtained in the form of a light beige solid, m.p. 90° C.

reactant | 2-benzylpyrazine | 8 g | C(C1=CC=CC=C1)C1=NC=CN=C1 | C11H10N2
solvent | acetic acid | 60 cc | C(C)(=O)O | C2H4O2
catalyst | platinum dioxide | 0.8 g | [Pt](=O)=O
product | (RS)-2-Benzylpiperazine | 5.32 g | C(C1=CC=CC=C1)C1NCCNC1 | C11H16N2
